US09216964B2
To a reaction tube under argon containing 5-bromo-2-(2,2-difluoropropyl)-1,2,3,4-tetrahydroisoquinoline (29 mg, 0.1 mmol), 4-methyl-3-(5-methylpyridin-2-yl)aniline (20 mg, 0.1 mmol), Pd2(dba)3 (10 mg, 0.01 mmol), xantphos (17 mg, 0.02 mmol), potassium phosphate (60 mg, 0.3 mmol) is added anhydrous dioxane (0.5 ml). The mixture is stirred at 96° C. under argon for 18 hours, cooled to room temperature and filtered through a celite pad. The filtrate is concentrated and preparative HPLC is used to isolate 2-(2,2-Difluoropropyl)-N-(4-methyl-3-(5-methylpyridin-2-yl)phenyl)-1,2,3,4-tetrahydroisoquinolin-5-amine as a white solid. LC-MS m/z: 408.2 (M+1); 1H NMR 400 MHz (CDCl3) δ 8.48 (s, 1H), 7.52 (dd, 2H, J=1.6, 8 Hz), 7.28 (d, 1H, J=8.0 Hz), 7.14 (d, 1H, J=8.0 Hz), 7.07-7.00 (m, 2H), 6.95 (dd, 1H, J=2.4, 8.0 Hz), 6.62 (d, 1H, J=6.8 Hz), 5.30 (s, 1H), 3.77 (s, 2H), 2.92 (t, 2H, J=6.0 Hz), 2.83 (t, 2H, J=13.6 Hz), 2.66 (t, 2H, J=6.0 Hz), 2.36 (s, 3H), 2.27 (s, 3H), 1.66 (t, 3H, J=18.8 Hz).

reactant | 5-bromo-2-(2,2-difluoropropyl)-1,2,3,4-tetrahydroisoquinoline | 0.1 mmol, 29 mg | BrC1=C2CCN(CC2=CC=C1)CC(C)(F)F | C12H14BrF2N
reactant | 4-methyl-3-(5-methylpyridin-2-yl)aniline | 0.1 mmol, 20 mg | CC1=C(C=C(N)C=C1)C1=NC=C(C=C1)C | C13H14N2
reactant | xantphos | 0.02 mmol, 17 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | 0.3 mmol, 60 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.01 mmol, 10 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | 2-(2,2-Difluoropropyl)-N-(4-methyl-3-(5-methylpyridin-2-yl)phenyl)-1,2,3,4-tetrahydroisoquinolin-5-amine | FC(CN1CC=2C=CC=C(C2CC1)NC1=CC(=C(C=C1)C)C1=NC=C(C=C1)C)(C)F | C25H27F2N3
